US03954749
Preparation of 2-(N,N-dimethylamino)ethyl 3-(N',N'-dimethylamino)propionate
Anhydrous dimethylamine (19.8 grams) was added dropwise to 2-(N,N-dimethylamino)ethyl acrylate (31.5 grams) in a magnetically-stirred, ice-cooled reaction vessel at such a rate that the temperature did not exceed 40°C. The addition of dimethylamine was complete in about 10 minutes. After allowing the reaction mixture to stir overnight at room temperature, it was subjected to reduced pressure (about 20 mm. Hg) to remove unreacted dimethylamine. Gas-liquid chromatographic analysis indicated that the residue product was 96.5 percent pure. The structure of the product, ##EQU18## was verified spectroscopically (nuclear magnetic resonance and infrared) and by elemental analysis. Anal. Calc'd. for C9H20N2O2 : C, 57.4; H, 10.6; N, 14.9. Found: C, 57.3; H, 10.5; N, 14.8. This product is designated herein as Amine Catalyst X.

reactant | dimethylamine | 19.8 grams | CNC | C2H7N
reactant | 2-(N,N-dimethylamino)ethyl acrylate | 31.5 grams | C(C=C)(=O)OCCN(C)C | C7H13NO2
product | 2-(N,N-dimethylamino)ethyl 3-(N',N'-dimethylamino)propionate | CN(C)CCC(=O)OCCN(C)C | C9H20N2O2
